US05019578
2-Chloro-4-acetylpyridine
To a solution of 20.4 g of 2-chloro -4-cyanopyridine in 290 ml of anhydrous ether at room temperature, 100 ml of 3.0 M methyl magnesium bromide in ether was slowly added under nitrogen. The mixture was stirred for 20 hours and then slowly poured onto cold aqueous hydrochloric acid. The layers were separated and the aqueous layer further extracted with ether. The combined organic layers were washed with saturated sodium chloride solution and then dried with anhydrous magnesium sulfate. The solution was concentrated and the residue chromatographed on silica gel (60:40 methylene chloride:hexane) to give 11.42 g of product.

reactant | 2-chloro -4-cyanopyridine | 20.4 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | methyl magnesium bromide | 3.0 M, 100 ml | C[Mg]Br
reactant | hydrochloric acid | Cl | ClH
reactant | ether | 290 ml | CCOCC | C4H10O
product | 2-Chloro-4-acetylpyridine | 11.42 g | ClC1=NC=CC(=C1)C(C)=O | C7H6ClNO
